US07786129B2
5,7-Dichloro-3-{5-[4-(4-chlorophenyl)-piperazin-1-yl]-pentyl}-3-ethyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 from 5,7-dichloro-3-(5-chloropentyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(4-chlorophenyl)-piperazine.

reactant | 5,7-dichloro-3-(5-chloropentyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(CC)CCCCCCl | C15H18Cl3NO
reactant | 1-(4-chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 5,7-Dichloro-3-{5-[4-(4-chlorophenyl)-piperazin-1-yl]-pentyl}-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC=1C=C2C(C(NC2=C(C1)Cl)=O)(CC)CCCCCN1CCN(CC1)C1=CC=C(C=C1)Cl | C25H30Cl3N3O
